US07384942B2
Synthesis of 6-[(2-{[6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile
To a solution of 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine (20 mg, 0.057 mmol) in DMF (1 ml), 6-[(2-aminoethyl)amino]pyridine-3-carbonitrile (10.0 mg, 0.06 mmol) and diisopropylethyl amine (40 μl, 0.228 mmol) were added. The reaction mixture was stirred for 12 hours at 80° C. The crude mixture was concentrated in vacuo and subjected to column chromatography (5% methanol in methylene chloride) to afford the title compound as bright yellow solid.

reactant | 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine | 0.057 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=C(N1)Br)[N+](=O)[O-] | C10H4BrCl2N3O2
reactant | 6-[(2-aminoethyl)amino]pyridine-3-carbonitrile | 0.06 mmol, 10.0 mg | NCCNC1=CC=C(C=N1)C#N | C8H10N4
reactant | diisopropylethyl amine | 0.228 mmol, 40 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-[(2-{[6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=C(N=CC(=N1)NCCNC1=CC=C(C=N1)C#N)[N+](=O)[O-] | C18H13Cl2N7O2
